plaintext
* SPICE netlist for the given circuit

VDD 5 0 DC 1.8V
Vin 2 0 DC

R1 5 2 1k
RD 5 1 1k
R2 2 2 1k

C1 2 2 1uF
C1 3 0 1uF

M1 1 2 3 3 PMOS L=1u W=1u

I1 3 0 DC 10uA

.END